US05274111
5-Methoxy-1-(methyl)-4-[(4-methylthiophenyl) methyl]-3-(trifluoromethyl)pyrazole
The title compound was prepared as in Example 1 from 1-methyl-4-[(4-methylthiophenyl)methyl]-3-(trifluoromethyl)-2H-pyrazol-5-one, which was also prepared as in Example 1 except that methylhydrazine was used instead of hydrazine and recrystallization from toluene-hexane mixture provided the intermediate compound as off-white crystals, mp 138°-139° C.

reactant | 1-methyl-4-[(4-methylthiophenyl)methyl]-3-(trifluoromethyl)-2H-pyrazol-5-one | CN1NC(=C(C1=O)CC1=CC=C(C=C1)SC)C(F)(F)F | C13H13F3N2OS
reactant | methylhydrazine | CNN | CH6N2
product | 5-Methoxy-1-(methyl)-4-[(4-methylthiophenyl) methyl]-3-(trifluoromethyl)pyrazole | COC1=C(C(=NN1C)C(F)(F)F)CC1=CC=C(C=C1)SC | C14H15F3N2OS
